US05541347
3-(2-hydroxyethoxy)-4-(triphenylmethoxy)-1-butanol (14.0 g, 35.7 mmol) was dissolved in 140 mL of CH2Cl2, was cooled to 0° C. under N2, and triethylamine (10.8 g, 14.9 mL, 0.107 mol. 3.0 eq.) was added. Methanesulfonyl chloride (11.0 g, 7.46 mL, 96.4 mmol, 2.7 eq.) was then added dropwise at <5° C. The resultant reaction mixture was diluted with additional CH2Cl2 (300 mL) and was washed with 200 mL of water and 200 mL of an aqueous saturated solution of ammonium chloride. The aqueous layers were back-extracted with 50 mL of CH2Cl2 and the combined organic layer was washed with 100 mL of brine and was dried (MgSO4) and evaporated in vacuo to give 18.4 g (94%) of 3-(2-[(methylsulfonyl)oxy]ethoxy]-4-triphenylmethoxy)-1-butanol methane sulfonate as a white solid.

reactant | 3-(2-hydroxyethoxy)-4-(triphenylmethoxy)-1-butanol | 35.7 mmol, 14.0 g | OCCOC(CCO)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H28O4
reactant | triethylamine | 0.107 mol, 14.9 mL, 10.8 g, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 96.4 mmol, 7.46 mL, 11.0 g, 2.7 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 140 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 1-butanol methane sulfonate | CS(=O)(=O)OCCCC | C5H12O3S
